US09227986B2
Synthesis of 5-(tert-butyl)-2,2′-bithiophene (114)
2,2′-bithiophene (10 g, 60.1 mmol) was dissolved in DCM (300 mL) and 2-chloro-2-methylpropane (7.95 g, 72.2 mmol) was added. Aluminum chloride (8.82 g, 66.2 mmol) was added in one portion, and the colourless solution turned a green/brown colour immediately. The reaction mixture was stirred at room temperature for 30 minutes, then was poured into water (500 mL), mixed well and separated. The aqueous portion was extracted with DCM (200 mL) and the combined organics were washed with brine (2×400 mL), dried over MgSO4, filtered and solvent removed by rotary evaporation to afford a clear, green oil (13.3 g, 99%) that was used in the next step without further purification. 1H NMR (400 MHz, CDCl3) δ 7.17 (dd, J=5.1, 1.1 Hz, 1H), 7.10 (dd, J=3.6, 1.1 Hz, 1H), (dd, J=5.1, 3.6 Hz, 1H), 6.98 (d, J=3.6 Hz, 1H), 6.73 (d, J=3.7 Hz, 1H), 1.40 (s, 9H).

reactant | 2,2′-bithiophene | 60.1 mmol, 10 g | S1C(=CC=C1)C=1SC=CC1 | C8H6S2
reactant | 2-chloro-2-methylpropane | 72.2 mmol, 7.95 g | ClC(C)(C)C | C4H9Cl
reactant | Aluminum chloride | 66.2 mmol, 8.82 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | water | 500 mL | O | H2O
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
product | 5-(tert-butyl)-2,2′-bithiophene | 13.3 g, 99% | C(C)(C)(C)C1=CC=C(S1)C=1SC=CC1 | C12H14S2
